US08802697B2
Synthesis of N1-(5-((3,5-dimethoxyphenyl)ethynyl)pyrimidin-2-yl)-6-methylbenzene-1,2-diamine
A mixture of 5-((3,5-dimethoxyphenyl)ethynyl)-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine (150 mg, 0.38 mmol), Iron (171 mg, 3.04 mmol) and ammonium chloride (246 mg, 4.56 mmol) in ethanol (20 mL) and water (2 mL) was stirred at 85° C. for 1 h. LCMS showed the reaction was completed. The reaction was cooled to RT, and the solid was filtered off. The filtrate was concentrated, and the residue was purified by Prep-HPLC to afford the title compound as a white solid (55 mg, 44%). MS (ES+) C21H20N4O2 requires: 360. found: 361 [M+H]+. 1H-NMR (500 MHz, DMSO-d6) δ ppm 8.76 (s, 1H), 8.50-8.46 (br, 2H), 6.88 (t, 1H, J=7.0 Hz), 6.66 (s, 2H), 6.57 (d, 1H, J=7.5 Hz), 6.54 (s, 1H), 6.44 (d, 1H, J=6.5 Hz), 4.74 (s, 2H), 3.76 (s, 6H), 2.01 (s, 3H).

reactant | 5-((3,5-dimethoxyphenyl)ethynyl)-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine | 0.38 mmol, 150 mg | COC=1C=C(C=C(C1)OC)C#CC=1C=NC(=NC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C21H18N4O4
reactant | ammonium chloride | 4.56 mmol, 246 mg | [Cl-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
catalyst | Iron | 3.04 mmol, 171 mg | [Fe] | Fe
product | N1-(5-((3,5-dimethoxyphenyl)ethynyl)pyrimidin-2-yl)-6-methylbenzene-1,2-diamine | 55 mg, 44% | COC=1C=C(C=C(C1)OC)C#CC=1C=NC(=NC1)NC=1C(=CC=CC1C)N | C21H20N4O2
